US20010023249A1
Step 2: Preparation of 4-[(4-hydroxy-phenyl)-(3-methyl-butyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (In)
4-[(4-Benzyloxy-phenyl)-(3-methyl-butyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (9.59 g, 21.2 mmol) was dissolved in 1:1 THF/MeOH (100 mL), treated with 20% Pd/C (1.0 g), and shaken under an atmosphere of H2 (47 psi) for 15 hours. The reaction was filtered and the solution was concentrated. The crude material was chromatographed on silica gel eluting with 4:1 hexane/EtOAc to give 6.3 g (82%) of the desired product.

reactant | 4-[(4-Benzyloxy-phenyl)-(3-methyl-butyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 21.2 mmol, 9.59 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCC(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H40N2O3
solvent | THF MeOH | 100 mL | C1CCOC1.CO
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 4-[(4-hydroxy-phenyl)-(3-methyl-butyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 6.3 g, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCC(C)C)C1=CC=C(C=C1)O | C21H34N2O3
